US04686220
1-(3-Chloro-1,4-dihydro-1,4-dioxo-2-naphthalenyl)-4-[[2-(trifluoromethyl)phenyl]sulfonyl]piperazine
A 1.5 g portion of 3-chloro-2-piperazinyl-1,4-naphthoquinone and 1.26 g of 2-trifluoromethylbenzenesulfonyl chloride were reacted as described in Example 56, giving 1.53 g of the desired product, mp 122°-124° C.

reactant | 3-chloro-2-piperazinyl-1,4-naphthoquinone | ClC1=C(C(C2=CC=CC=C2C1=O)=O)N1CCNCC1 | C14H13ClN2O2
reactant | 2-trifluoromethylbenzenesulfonyl chloride | 1.26 g | FC(C1=C(C=CC=C1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
product | 1-(3-Chloro-1,4-dihydro-1,4-dioxo-2-naphthalenyl)-4-[[2-(trifluoromethyl)phenyl]sulfonyl]piperazine | 1.53 g | ClC1=C(C(C2=CC=CC=C2C1=O)=O)N1CCN(CC1)S(=O)(=O)C1=C(C=CC=C1)C(F)(F)F | C21H16ClF3N2O4S
